US05883106
N,N-Dimethyl-4-[5-fluoro-3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxamide
To a stirred suspension of 4-[5-fluoro-3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxylic acid (100 mg, 0.24 mmol), dimethylamine hydrochloride (98 mg, 1.2 mmol) and triethylamine (253 mg, 2.5 mmol) in THF (50 ml) at 0° C. was added diethyl cyanophosphonate (44 mg, 0.27 mmol). After 10 min, the reaction was diluted with water (50 ml) and extracted with ethyl acetate (50 ml). The extract was washed with water (50 ml) and brine (50 ml), dried over magnesium sulfate and concentrated. Purification of the residue was performed by column chromatography (silica-gel, 50 g; gradient polarity of eluant from dichloromethane to 5% methanol in dichloromethane) to give 117 mg of crude product as a colorless foam. Recrystallization from a mixture of isopropyl ether-ethyl acetate (1:1) to give the titled compound (51 mg, 50%).

reactant | 4-[5-fluoro-3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxylic acid | 0.24 mmol, 100 mg | FC=1C=C(C=C(C1)C1(CCOCC1)C(=O)O)OCC1=CC=C(C=C1)N1C(=NC=C1)C | C23H23FN2O4
reactant | dimethylamine hydrochloride | 1.2 mmol, 98 mg | Cl.CNC
reactant | triethylamine | 2.5 mmol, 253 mg | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 0.27 mmol, 44 mg | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | N,N-Dimethyl-4-[5-fluoro-3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxamide | 51 mg, 50% | CN(C(=O)C1(CCOCC1)C1=CC(=CC(=C1)F)OCC1=CC=C(C=C1)N1C(=NC=C1)C)C | C25H28FN3O3
